US04386031
(c) 8-[4-Chloro-N-(4-benzyloxyphenyl)-benzamido]caprylic acid
As described in example 1(b), the reaction is carried out with 7.4 g (15 mmol) of 8-[4-chloro-N-(4-benzyloxyphenyl)-benzamido]-caprylic acid methyl ester, 1 g (23 mmol) of sodium hydroxide and 200 cc. of methanol. Reaction time: 48 hours, reaction temperature: 25° C. The crude product is used in the next reaction step without further purification.

reactant | 8-[4-chloro-N-(4-benzyloxyphenyl)-benzamido]-caprylic acid methyl ester | 15 mmol, 7.4 g | COC(CCCCCCCN(C(C1=CC=C(C=C1)Cl)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C29H32ClNO4
reactant | sodium hydroxide | 23 mmol, 1 g | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 8-[4-Chloro-N-(4-benzyloxyphenyl)-benzamido]caprylic acid | ClC1=CC=C(C(=O)N(C2=CC=C(C=C2)OCC2=CC=CC=C2)CCCCCCCC(=O)O)C=C1 | C28H30ClNO4
